US09163033B2
(±)-2-chloro-N-(phenylmethoxy)propanamide (4d):
Prepared in 48% yield (0.97 g, 3.9 mmol) from the reaction of 2-chloropropanoyl chloride (1.03 g, 8.2 mmol) with O-benzylhydroxylamine, hydrochloride (1.03 g, 8.2 mmol) via general procedure A. Rf=0.43 (3:1, hexanes:EtOAc); mp=70.1-72.8° C.; 1H-NMR (500 MHz, CDCl3): δ 9.09 (br s, 1H), 7.44-7.35 (m, 5H), 4.93 (s, 4H), 4.33 (q, J=7.1 Hz, 1H), and 1.69 (d, J=6.8 Hz, 3H); 13C-NMR (126 MHz, CDCl3): δ 167.1, 134.8, 129.5, 129.1, 128.8, 78.5, 53.2, and 22.3; FT-IR: (neat): 3112 (br), 2931, 1678 (s), 1494, 1454, 1364, 1222, 1204, 1074 cm-1. HRMS ESI-MS: calculated for C10H12ClNNaO2 (M+Na)+, 236.0449; found 236.0445.

reactant | 2-chloropropanoyl chloride | 8.2 mmol, 1.03 g | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | O-benzylhydroxylamine, hydrochloride | 8.2 mmol, 1.03 g | Cl.C(C1=CC=CC=C1)ON
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-2-chloro-N-(phenylmethoxy)propanamide | 48% yield | ClC(C(=O)NOCC1=CC=CC=C1)C | C10H12ClNO2
